US06897310B2
B) 4,5-Diamino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester
4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester (1.9 g, 5.44 mmol) was hydrogenated in MeOH under a H2 atmosphere (45 psi) over 10% Pd/C (100 mg) for 1.5 hours then filtered through a Celite pad and concentrated to white solids (1.57 g, 100%). (TLC 5% MeOH/CH2Cl2 (NH3) Rf 0.14).

reactant | 4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | 5.44 mmol, 1.9 g | C(C)(C)(C)OC(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)[N+](=O)[O-])[N+](=O)[O-] | C16H19N3O6
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4,5-Diamino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)N)N | C16H23N3O2
